USH0002007H1
A solution of 1.5 grams (0.003 mole) of N-(2-methylindol-3-ylacetyl)-N′-[bis(4-fluorophenyl)methyl]piperazine in 10.0 mL of anhydrous tetrahydrofuran was added to a stirred mixture of 0.4 gram (0.010 mole) of lithium aluminum hydride in 5.0 mL of anhydrous tetrahydrofuran. Upon completion of the addition the reaction mixture was heated to reflux, where it stirred for 2.5 hours. The reaction mixture was cooled to 0° C., and water was added, followed by 50 mL of aqueous 10% sodium hydroxide. The solution was warmed to ambient temperature and then extracted with ethyl acetate. The extract was dried with sodium sulfate and filtered. The filtrate was concentrated under reduced pressure, yielding 0.7 gram of N-(2-methylindol-3-ylethyl)-N′-[bis(4-fluorophenyl)methyl]piperazine, mp 65-73° C. The NMR spectrum was consistent with the proposed structure.

reactant | N-(2-methylindol-3-ylacetyl)-N′-[bis(4-fluorophenyl)methyl]piperazine | 0.003 mole, 1.5 grams | CC=1NC2=CC=CC=C2C1CC(=O)N1CCN(CC1)C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C28H27F2N3O
reactant | lithium aluminum hydride | 0.010 mole, 0.4 gram | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 10.0 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
product | N-(2-methylindol-3-ylethyl)-N′-[bis(4-fluorophenyl)methyl]piperazine | 0.7 gram | CC=1NC2=CC=CC=C2C1CCN1CCN(CC1)C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C28H29F2N3
